US08492414B2
2,6-Difluoro-3-[3-(4-hydroxyphenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-benzamide
To a solution of 3-[3-(4-benzyloxy-phenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-2,6-difluorobenzamide (0.020 g, 0.04 mmol) in DCM (5 ml) was added methanesulfonic acid (0.15 g, 1.50 mmol) drop wise. The resulting reaction mixture was stirred at room temperature for 1 h. After the completion of the reaction (TLC monitoring), the reaction mass was cooled to 0° C., quenched it with 5 ml of water and concentrated under vacuum. Added 25 ml water and extracted with ethyl acetate (3×20 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified by ether and DCM washes to get the desired product (0.004 g, 25%).

reactant | 3-[3-(4-benzyloxy-phenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-2,6-difluorobenzamide | 0.04 mmol, 0.020 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NSC(=N1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C23H17F2N3O3S
reactant | methanesulfonic acid | 1.50 mmol, 0.15 g | CS(=O)(=O)O | CH4O3S
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2,6-Difluoro-3-[3-(4-hydroxyphenyl)-[1,2,4]thiadiazol-5-ylmethoxy]-benzamide | 0.004 g, 25% | FC1=C(C(=O)N)C(=CC=C1OCC1=NC(=NS1)C1=CC=C(C=C1)O)F | C16H11F2N3O3S
